Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin / Indomethacin / Ciprofloxacin / Probenecid / 
Allopurinol And Derivatives / Phenytoin / Keflex
 
Attending: ___.
 
Chief Complaint:
Hypotension
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old gentleman with a PMH significant for HCV cirrhosis 
c/b HCC s/p lobe resection in ___, POD 12 from craniotomy for 
SDH now admitted to the FICU for fever, rash, and hypotension.  
The patient was noted at rehab to be febrile to 103 today, and 
was also complaining of a "total body itchiness" and was noted 
both at rehab and by the ED attending to have trunk and arm 
erythema.  He was started on keflex yesterday for possible 
superficial phlebitis at an old PIV site, and denies any 
localizing symptoms including HA, menigismus, cough, shortness 
of breath, dysuria, n/v/d.
.
Of note, the patient was admitted to ___ under the 
Neurosurgical service from ___ after a fall with 
bilateral SDH, and underwent right craniotomy on ___, and 
ultimately was discharged to rehab on dilantin for seizure 
prophylaxis.  In addition, he was started on keflex the day 
prior to admission for question of cellulitis on his left 
forearm at the location of a prior PIV site.
.
In the ___ ED, initial VS 99 68 78/60 18 94%RA.  The patient 
had a negative CXR and UA, an I+/- CTH that was read as 
unchanged from most recent post-operative study, and 
Neurosurgery was consulted with low suspicion for CNS infection. 
The patient received 10 mg IV dexamethasone, 5 L IVF, 
vancomycin, and levofloxacin, and was admitted to the FICU for 
further management.
.
Currently, the patient is resting comfortably without 
complaints. Continues to deny any CP/SOB, f/c/s, n/v/d, abd 
pain, HA, palpitations, dysuria.

 
Past Medical History:
1. Hypertension 
2. Hypothyroidism
3. Gout
4. GERD
5. BPH
6. Hepatitis C
7. Hepatocellular carcinoma

 
Social History:
___
Family History:
Mother: breast cancer, died at ___
Sister: bipolar disorder  
Aunt: breast cancer, died in ___.

 
Physical Exam:
Admission Exam:
. 
VS: T:98.5, HR:72, BP:106/69, RR:22, SO2:94%RA
Gen: NAD
HEENT: PERRL, eomi, sclerae anicteric. MM dry. OP clear without 
lesions, exudate, or erythema.
CV: Nl S1+S2
Pulm: CTAB
Abd: S/NT +bs, ? ascites on exam.
Ext: No c/c/e.
Neuro: AO x3, CN II-XII intact.
Skin: Stapled surgical site on cranium without surround erythema
.
Physical Exam:  
VS: Tmax 97.7 Tc 96.0  HR 52 (52-73)  BP 119/68 (106-130/60-82) 
RR 16  O2 sat 99% on RA
I/O 24h 3120-975
.
GEN: AOx3, NAD
HEENT:  PERRLA. EOMI. Bil Exophthalmus (this is a feature from 
childhood and runs in the family per patient). Surgical sight on 
cranium w/o erythea/swelling/tenderness. MMM. no LAD. no JVD. 
neck supple. Right thyroid fullness/nodule?
Cards: RRR S1/S2 normal. no murmurs/gallops/rubs.
Pulm: CTA
Abd: soft, NT, distended, +BS. no rebound/guarding. 
Extremities: wwp, no edema. DPs, PTs 2+.
Skin: no rashes.
Neuro/Psych: CNs II-XII intact. no gross deficit

 
Pertinent Results:
Admission Results:
. 
___ 01:08PM BLOOD WBC-6.9 RBC-3.43* Hgb-10.8* Hct-32.9* 
MCV-96 MCH-31.5 MCHC-32.8 RDW-16.1* Plt ___
___ 01:08PM BLOOD Neuts-84.3* Lymphs-10.0* Monos-1.6* 
Eos-3.9 Baso-0.2
___ 01:08PM BLOOD ___ PTT-31.6 ___
___ 01:08PM BLOOD Glucose-154* UreaN-19 Creat-1.3* Na-133 
K-4.6 Cl-103 HCO3-17* AnGap-18
___ 01:08PM BLOOD ALT-52* AST-110* AlkPhos-350* 
TotBili-2.2* DirBili-1.1* IndBili-1.1
___ 01:08PM BLOOD Calcium-8.0* Phos-2.9 Mg-1.6
___ 01:13PM BLOOD Lactate-3.1* K-4.4
. 
CXR (___):
No acute cardiopulmonary process.
. 
CT Head With and Without Contrast (___):
Stable appearance of evolving bilateral subdural hematomas and 
interval resorption of postoperative pneumocephalus, with no 
concerning 
enhancement. 
. 
Interval Results:
.
Right Upper Quadrant Ultrasound (___): **DICTATED, FINAL 
PENDING**
1. Heterogeneous liver with lesions consistent with multifocal 
hepatocellular carcinoma. 
2. Patent portal veins.
3. Patent hepatic veins and artery.
4. Moderate amount of asciates. 
. 
. 
. 
Last Updated on ___ year old gentleman with a PMH significant for HCV cirrhosis 
complicated by ___ s/p lobe resection in ___, who presented on 
post-operative day ___ from craniotomy for a subdural hematoma 
with fever, rash, and hypotension.
.
#. Hypotension and Fever: There was immediate concern for sepsis 
on presentation to the ED, although no apparent source was 
isolated and no significant fever was recorded in the hospital 
(had 100.4 on admission to the ED). Sepsis workup was negative 
including CXR, UA, Urine and Blood cultures. Final blood cutlure 
results are still pending. Given recent craniotomy the 
neurosurgery service was consulted and was not concerned for CNS 
infection. A RUQ ultraound was performed that confirmed a 
moderate amount of ascites and patency of the hepatic vessels, 
but the abdomen was not tender and the suspicion for SBP was 
low. Adrenal insuficiency was ruled out per cosyntropin test. 
The patient did receive a dose of Vancomycin and Levofloxacin in 
the ED but none were continued in the ICU as the patient 
remained afebrile and the ICU team's suspicion for infectious 
process was low. The patient recieved a dose of IV steroids in 
the ED and subsequently recieved a 3 day course of Prednisone 
60mg. Dilantin was considered as a possible etiology for his 
presentation, especially given the acute renal failure and 
associated morbilliform rash, as a type IV drug reaction, 
including DRESS, though no eosinophilia was noted on 
differential. Adittionally patient had recently been started on 
Keflex so anaphylactic shock due to allergy to cephalosporins is 
another possibility. Both dilantin and Keflex were discontinued 
and should be avoided in the future.  The patient remained 
afebrile and normotensive during his ICU stay and the day after 
admission was transferred to the oncology service. He remained 
stable on the oncology floor and is now discharged back to rehab 
facility.  
.
#. Acute Renal Failure: Patient was admitted with a serum 
creatinine of 1.2, up from a known baseline of 0.9 to 1 likely 
pre-renal failure in the setting of hypotension. His Cr. on 
discharge was 0.9. Renal functions and electrolytes should be 
followed in the outpatient setting.  
.  
#. Elevated Liver Enzymes: ___ Hepatitis C Cirrhosis and 
Hepatocellular Carcinoma: Patient failed Interferon and 
Ribavirin in the past. Patient with known multifocal HCC 
recurrence re-confirmed per RUQ ultrasound on this admission.
.
# Metabolic Acidosis: initially normochloremic with slightly 
elevated AG, then hyperchloremic with normal anion gap. Likely 
initially ___ to tissue hypoperfusion given the elevated lactate 
on admission. Lactate was 3.1 on admission and decreased to 1.3. 
Also contributed to by renal failure. Bicarbonate trending up on 
discharge.  
.
# Anemia: at baseline of ___. Had initial drop of Hct 
secondary to rehydration and resolution of Hemmoconcentration, 
Hct back to baseline at discharge. 
.
#. Hypertension: Anti-hypertensives were held in the setting of 
hypotension. Tamsulosin 0.4 mg was restarted on discharge.  
Amlodipine continues to be held on discharge
.
#. Hypothyroid: Patient was continued on Levothyroxine without 
event. Of note patient found to have increased palpable right 
lower thyroid lobe. Further workup of this finding may be 
considered in the out patient setting.
.
# Code status during this admission: Full 
 
Medications on Admission:
1. Amlodipine 5 mg DAILY  
2. Tamsulosin 0.4 mg HS  
3. Oxycodone 5 mg Q4H as needed for pain.  
4. Multivitamin  
5. Cholecalciferol (vitamin D3) 400 Units DAILY  
6. Vitamin E 400 Units DAILY  
7. Levothyroxine 75 mcg DAILY  
8. Docusate sodium 100 mg BID  
9. Phenytoin sodium extended 100 mg TID  
10. Keflex
 
Discharge Medications:
1. tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO at bedtime.  
2. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for Pain.  
3. multivitamin     Tablet Oral
4. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO once a day.  
5. levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. vitamin E 400 unit Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Suspected Drug Reaction/Anaphylaxis
CAVE PHENYTOIN
CAVE CEPHALEXIN
s/p craniotomy for bilateral acute on chronic sub dural 
hemmorahge
Hepatitis C cirrhosis
Hepatocelular Carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted because of rash and low blood pressure. You 
were treated with intravenous fluids and steroids and your 
condition quickly improved. We believe this event may have been 
due to reaction or allergy to medications you were taking either 
Dilantin (phenytoin) or Keflex (cephalexin). Please avoid these 
medications in the future. 
. 
The following changes were made to your medications: 
- STOP Dilantin
- STOP Keflex
- Amlodipin was stopped, please consult your treating physician 
about restarting this medication
.
Please continue to take your home medications without change. 
. 
Please discussed imaging of your thyroid gland with your primary 
care provider. 
 
Followup Instructions:
___